US06977262B2
Ethyl 4,7-dihydro-4-(2-methylfuran-3-yl)-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
The title compound was prepared from 2-methylfuran-3-aldehyde, 3-aminopyrazole and ethyl 3-ketohexanoate in the same manner as in Example 25.

reactant | 2-methylfuran-3-aldehyde | CC=1OC=CC1C=O | C6H6O2
reactant | 3-aminopyrazole | NC1=NNC=C1 | C3H5N3
reactant | ethyl 3-ketohexanoate | O=C(CC(=O)OCC)CCC | C8H14O3
product | Ethyl 4,7-dihydro-4-(2-methylfuran-3-yl)-6-propyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | CC=1OC=CC1C1C=2C(NC(=C1C(=O)OCC)CCC)=NNC2 | C17H21N3O3
